US06355636B1
To 44 g of 5-tert-butoxycarbonylamino-2-fluoro-isonicotinic acid in 100 mL of methanol and 300 mL of chloroform at 0° C. was added 200 mL of 2 M (trimethylsilyl)diazomethane in hexanes. After allowing the reaction to warm to ambient temperature and stirring for 2 hours, the solvents were removed and the crude product purified by passing through a plug of silica gel with chloroform. The product was then recrystallized from hexanes to give 32.6 g (73%) of 5-tert-butoxycarbonylamino-2-fluoro-isonicotinic acid, methyl ester: melting point 104-105° C. (decomposed); mass spectrum (m/e): M+H 270.9.

reactant | 5-tert-butoxycarbonylamino-2-fluoro-isonicotinic acid | 44 g | C(C)(C)(C)OC(=O)NC1=CN=C(C=C1C(=O)O)F | C11H13FN2O4
reactant | (trimethylsilyl)diazomethane | 2 M, 200 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 100 mL | CO | CH4O
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-tert-butoxycarbonylamino-2-fluoro-isonicotinic acid, methyl ester | 32.6 g, 73% | C(C)(C)(C)OC(=O)NC1=CN=C(C=C1C(=O)OC)F | C12H15FN2O4
